US04988814
To a chilled solution of t-butoxycarbonyl D-alanine (9.45 g, 0.05 mol) and 1-(2-methoxyphenyl)piperazine (9.6 g, 0.05 mol) in 125 mL of CH2Cl2 was added diethyl cyanophosphonate (8.34 mL, 0.055 mol) in 50 mL of CH2Cl2 over 30 minutes followed by triethylamine (7.37 mL, 0.055 mol) in 50 mL of CH2Cl2 over 15 minutes. After 21/2 hours, the solution was washed with water (2×100 mL) and K2CO3 (2×100 mL of 10% aqueous), dried over anhydrous K2CO3 and evaporated to an oil. The crude 1-(t-butoxycarbonyl-D-alanyl)-4-(2-methoxyphenyl)piperazine was stirred in 200 mL of 4.5N HCl in ethyl acetate for 1 hour at room temperature, diluted with 400 mL of anhydrous diethyl ether, filtered, washed and dried in vacuo. The 1-(D-alanyl)-4-(2-methoxyphenyl)piperazine dihydrochloride was stirred in 200 mL of anhydrous tetrahydrofuran, treated with 225 mL of 1M BH3 in tetrahydrofuran, and refluxed 31/2 hours. After cooling in ice, the reaction was quenched with 140 mL of 2N aqueous HCl and refluxed 18 hours The tetrahydrofuran was removed on a Rotovapor, the aqueous solution was made basic with 6N sodium hydroxide and the amine was extracted into diethyl ether. The diethyl ether solution was dried over anhydrous K2CO3, filtered and acidified with 4.5N HCl in ethyl acetate. The salt was filtered, washed with diethyl ether, converted to free base in 2N NaOH and extracted into diethyl ether. After drying as above and evaporation, (R)-1-methyl-2-[4-(2-methoxyphenyl)-piperazinyl]ethylamine was obtained as an oil (11.8 g, 94.7% based on BOC-D-alanine). A sample was converted to the trihydrochloride sesquihydrate, mp. 219°-221° C.; [α]D25 =-26.4 c=0.99 MeOH. 1H NMR (DMSO-d6) δ: 1.32 (d, 3H), 3.8 (s, 3H), 6.9-7.0 (m, 4H). The IR curve was devoid of carbonyl peaks.

reactant | t-butoxycarbonyl D-alanine | 0.05 mol, 9.45 g | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | 1-(2-methoxyphenyl)piperazine | 0.05 mol, 9.6 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | diethyl cyanophosphonate | 0.055 mol, 8.34 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.055 mol, 7.37 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-methyl-2-[4-(2-methoxyphenyl)-piperazinyl]ethylamine | C[C@H](CN1CCN(CC1)C1=C(C=CC=C1)OC)N | C14H23N3O
